US05075303
5,6,7,8-Tetrahydro-7--(N-hydroxymethylamino)quinoline
A solution of 5,6-dihydroquinoline (9.17g, 0.07 mmol) in methanol (10 ml) at 0° was treated portionwise with N-methylhydroxylamine hydrochloride (11.5 g, 0.138 mmol), stirred for 2h, poured into saturated aqueous sodium bicarbonate (250 ml), and extracted with chloroform (3 x 150 ml). The extracts were washed with water (50 ml), dried (MgSO4), and evaporated in vacuo. The residual brown liquid was purified by chromatography (alumina; ether) to give the product (6.45 g) as a colorless oil, which was converted into the amine of Example 2.

reactant | 5,6-dihydroquinoline | 0.07 mmol, 9.17g | N1=CC=CC=2CCC=CC12 | C9H9N
reactant | N-methylhydroxylamine hydrochloride | 0.138 mmol, 11.5 g | Cl.CNO
reactant | sodium bicarbonate | 250 ml | C([O-])(O)=O.[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | 5,6,7,8-Tetrahydro-7--(N-hydroxymethylamino)quinoline | 6.45 g | OCNC1CCC=2C=CC=NC2C1 | C10H14N2O
